US03970597
e. p-Nitrophenyl isocyanide
p-nitroaniline (5 gms; 0.036 mole) and potassium-t-butoxide (20 gms; 0.18 mole) were dissolved with stirring in t-butanol (1 liter). Chloroform (8 ml: 0.07 mole) was then added dropwise and the reaction allowed to proceed with stirring for 1 hr. Benzene (200 ml) and water were added until phase separation occured. The benzene phase was separated. The aqueous phase was extracted with two 100 ml portions of benzene. The combined benzene extract was washed with water and concentrated to a final volume of about 100 ml. in a rotatory evaporator. The concentrated benzene solution was passed through an activated-alumina column (2.5 × 25 cm), the yellow-orange fractions collected and evaporated to dryness. The yellowish brown solid (3.5 gms; 60% yield) was stored in a closed vessel, at -5°.

reactant | p-nitroaniline | 0.036 mole, 5 gms | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | potassium-t-butoxide | 0.18 mole, 20 gms | CC(C)([O-])C.[K+]
reactant | Chloroform | 0.07 mole, 8 ml | C(Cl)(Cl)Cl | CHCl3
reactant | Benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | t-butanol | 1 liter | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | p-Nitrophenyl isocyanide | 60% yield | [N+](=O)([O-])C1=CC=C(C=C1)[N+]#[C-] | C7H4N2O2
